US04331592
Benzoic acid-β-phenylethylamide
17.6 Grams of a 50% solution of n-propane-phosphonic acid anhydride in methylene chloride are added in 3 portions, with stirring and the exclusion of moisture, to a solution of 2.4 g of β-phenylethylamine, 2.2 g of benzoic acid and 14 ml of N-ethyl morpholine in 25 ml of methylene chloride. The temperature rises to about +40° C. The mixture is cooled to room temperature, while stirring, and is worked up after 24 hours of standing by adding 350 ml of methylene chloride and extracting the solution three times with 50 ml each of water, saturated sodium carbonate solution and potassium bisulfate solution. The crude product crystallizes from the methylene chloride solution dried over magnesium sulfate. Said product is filtered off with suction together with a small amount of petroleum ether (boiling point 40° to 60° C.).

reactant | β-phenylethylamine | 2.4 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | benzoic acid | 2.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N-ethyl morpholine | 14 ml | C(C)N1CCOCC1 | C6H13NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | Benzoic acid-β-phenylethylamide | C1(=CC=CC=C1)CCNC(C1=CC=CC=C1)=O | C15H15NO
